US06376548B1
2-Methylpropanoic acid chlorocarbonyloxymethyl ester
A 100 mL roundbottom flask was charged with the 2-methylpropanoic acid ethylsulfanylcarbonyloxymethyl ester (2.91 g, 14.1 mmol) and cooled to −40° C. in an acetone dry ice bath. Sulfuryl chloride (1.90 g, 14.1 mmol) was added over one minute. After 10 minutes the acetone/dry ice cooling bath was removed and replaced with an ice/water bath. After 30 minutes of stirring, the cooling bath was removed and the reaction was allowed to stir for one hour at room temperature and then placed under vacuum for 90 minutes. The material was used without purification. 1H-NMR (300 MHz, CDCl3) δ (ppm): 1.22 (d, 6H), 2.65 (m, 1H), 5.83 (s, 2H).

reactant | 2-methylpropanoic acid ethylsulfanylcarbonyloxymethyl ester | 14.1 mmol, 2.91 g | C(C)SC(=O)OCOC(C(C)C)=O | C8H14O4S
reactant | Sulfuryl chloride | 14.1 mmol, 1.90 g | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2-Methylpropanoic acid chlorocarbonyloxymethyl ester | ClC(=O)OCOC(C(C)C)=O | C6H9ClO4
